US07012075B2
To methyl 2-[(5-bromo-2-pyrimidinyl)amino]-4-methylpentanoate (1.27 g, 4.2 mmol) in MeOH (50 mL) was added an aqueous solution of LiOH (2 M, 21 mL, 42 mmol) and the reaction was stirred for 5 hours. The reaction was neutralized with aqueous 10% HCl (pH of 6–7) and concentrated to a minimum volume in vacuo. Brine was added and the product was extracted with EtOAc (3×), dried on Na2SO4, concentrated in vacuo, and stripped with MePh (3×) to afford N-(5-bromo-2-pyrimidinyl)leucine which was used as such in the next step.

reactant | methyl 2-[(5-bromo-2-pyrimidinyl)amino]-4-methylpentanoate | 4.2 mmol, 1.27 g | BrC=1C=NC(=NC1)NC(C(=O)OC)CC(C)C | C11H16BrN3O2
reactant | LiOH | 42 mmol, 2 M, 21 mL | [Li+].[OH-]
reactant | HCl | pH of 6–7 | Cl | ClH
solvent | MeOH | 50 mL | CO | CH4O
product | N-(5-bromo-2-pyrimidinyl)leucine | BrC=1C=NC(=NC1)N[C@@H](CC(C)C)C(=O)O | C10H14BrN3O2
